US04547501
4,8-Dichloro-1-phenyl-[1,2,4]triazolo[4,3-a]quinoxaline
In a 250 ml. three-necked reaction flask equipped with mechanical stirrer and reflux condenser, there were placed 50.0 g. (0.274 mole) of trimethyl orthobenzoate that had been preheated to ca. 70° C. Stirring was commenced and 10.0 g (0.0437 mole) of 2,6-dichloro-3-hydrazinoquinoxaline, the product of Preparation L(a), were added thereto. The resulting reaction mixture was then heated at ca. 120° C., with continued stirring, for a period of 24 hours, followed by cooling to room temperature (~20° C.) and stirring overnight for approximately 16 hours to give a yellow slurry. The latter slurry was then filtered, and the recovered solid product was subsequently washed with two-50 ml. portions of ethanol and air-dried to constant weight to ultimately afford 9.8 g. (72%) of crude 4,8-dichloro-1-phenyl-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 305°-307° C. Mass Spectrum: m/e, 316/314 (P+).

reactant | trimethyl orthobenzoate | 0.274 mole | COC(C1=CC=CC=C1)(OC)OC | C10H14O3
reactant | 2,6-dichloro-3-hydrazinoquinoxaline | 0.0437 mole, 10.0 g | ClC1=NC2=CC=C(C=C2N=C1NN)Cl | C8H6Cl2N4
product | 4,8-Dichloro-1-phenyl-[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC(=CC=C3N1)Cl)C(=NN2)C2=CC=CC=C2 | C15H8Cl2N4
